US06110937
The (S)-3-(4-bromo-2,6-dimethylphenoxymethyl)-1-methylpiperidine was dissolved in ether (600 mL) and treated with a 1M solution of hydrochloric acid in ether (90 mL). The resulting white precipitate was filtered and dried in vacuo to give (S)-3-(4-bromo-2,6-dimethylphenoxymethyl)-1-methylpiperidine hydrochloride (25.5 g, 87%), m.p. 209.7-210.5° C.

reactant | (S)-3-(4-bromo-2,6-dimethylphenoxymethyl)-1-methylpiperidine | BrC1=CC(=C(OC[C@@H]2CN(CCC2)C)C(=C1)C)C | C15H22BrNO
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 600 mL | CCOCC | C4H10O
solvent | ether | 90 mL | CCOCC | C4H10O
product | (S)-3-(4-bromo-2,6-dimethylphenoxymethyl)-1-methylpiperidine hydrochloride | 25.5 g, 87% | Cl.BrC1=CC(=C(OC[C@@H]2CN(CCC2)C)C(=C1)C)C | InChI=1S/C15H22BrNO.ClH/c1-11-7-14(16)8-12(2)15(11)18-10-13-5-4-6-17(3)9-13;/h7-8,13H,4-6,9-10H2,1-3H3;1H/t13-;/m0./s1
